US04471138
In the manner described in Example 8, 131 g of secondarybutylamine and 93 g of 2-chloroethoxyethanol yielded 73 g of secondarybutylaminoethoxyethanol having a b.p. 120° C. (10 mm). Analysis calculated for C8H19NO2 : %N, 8.70: Found: %N, 8.45.

reactant | secondarybutylamine | 131 g | C(C)(CC)N | C4H11N
reactant | 2-chloroethoxyethanol | 93 g | ClCCOC(C)O | C4H9ClO2
product | secondarybutylaminoethoxyethanol | 73 g | C(C)(CC)NCCOC(C)O | C8H19NO2
